US07132426B2
8-Iodo-1H-quinolin-4-one (3.36 g, 8.72 mmol) was suspended in POCl3 (8 mL, 87.2 mmol) and catalytic anhydrous DMF (6.72 μL) was added. The mixture was refluxed for 1 h. The hot crude was poured over ice and the mixture stirred until ice was completely melted. Solid was filtered off, thoroughly washed with water and kept in the vacuum oven overnight to afford 4-chloro-8-iodo-quinoline as a grayish solid (2.47 g, 98%). 1H NMR (DMSO-d6, 400 MHz) δ 7.45 (t, 1H), 7.81 (d, 1H), 8.19 (dd, 1H), 8.45 (dd, 1H), 8.87 (d, 1H). Exact mass calculated for C9H5ClIN 288.92, found 289.9 (MH+).

reactant | 8-Iodo-1H-quinolin-4-one | 8.72 mmol, 3.36 g | IC=1C=CC=C2C(C=CNC12)=O | C9H6INO
reactant | POCl3 | 87.2 mmol, 8 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 6.72 μL | CN(C)C=O | C3H7NO
product | 4-chloro-8-iodo-quinoline | 2.47 g, 98% | ClC1=CC=NC2=C(C=CC=C12)I | C9H5ClIN
